US07786165B2
3-[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenyl]-2,2-difluoropropanoic acid
A mixture of ethyl 3-[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenyl]-2,2-difluoropropanoate (665 mg, 1.30 mmol), tetrahydrofuran (15 mL), ethanol (10 mL), water (10 mL) and lithium hydroxide monohydrate (162 mg, 3.89 mmol) was stirred at room temperature for 3 hr. The reaction mixture was neutralized with 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (20%-100% ethyl acetate/hexane), and the residue was recrystallized from ethyl acetate-hexane to give the title compound (415 mg, yield 66%) as colorless crystals.

reactant | ethyl 3-[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenyl]-2,2-difluoropropanoate | 1.30 mmol, 665 mg | C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CNC1=CC=C(C=C1)CC(C(=O)OCC)(F)F)C | C30H35F2NO4
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 3.89 mmol, 162 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[4-({[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenyl]-2,2-difluoropropanoic acid | 415 mg, yield 66% | C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CNC1=CC=C(C=C1)CC(C(=O)O)(F)F)C | C28H31F2NO4
